US06323222B1
Step A: (±)-N-Phenylacetyl-3-(3-chlorophenyl)-β-alanine
To a solution, in a 3/1 mixture of water/acetone, of 10 mmol of (±)-3-(3-chlorophenyl)-β-alanine described in Step A of Example 1 there are added 24 mmol of triethylamine and then, at −5° C., 13 mmol of phenylacetyl chloride. After stirring for 2 hours at −5° C. and then for 3 hours at ambient temperature, the solution is filtered; the acetone is evaporated off, the aqueous phase is washed with ether and is then acidified to pH=1 and extracted with ethyl acetate. The combined organic phases are dried and then evaporated. The residue obtained is washed with hexane, precipitated in a minimum of ether and then filtered to yield the expected product.

reactant | (±)-3-(3-chlorophenyl)-β-alanine | 10 mmol | ClC=1C=C(C=CC1)C(N)CC(=O)O | C9H10ClNO2
reactant | triethylamine | 24 mmol | C(C)N(CC)CC | C6H15N
reactant | phenylacetyl chloride | 13 mmol | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | water acetone | O.CC(=O)C
product | (±)-N-Phenylacetyl-3-(3-chlorophenyl)-β-alanine | C1(=CC=CC=C1)CC(=O)NC(CC(=O)O)C1=CC(=CC=C1)Cl | C17H16ClNO3
